US04920129
To a solution of 8-[2-methyl-6-(3-benzoylthioureido)benzylamino]-3-(2propynyl)-2-methylimidazo[1,2-a]pyridine (0.59 g) in methanol (5.9 ml) and tetrahydrofuran (5.9 ml) was added a solution of potassium carbonate (0.174 g) in water (5 ml) and the mixture was stirred for 2 hours at room temperature. The solvent was removed under reduced pressure and the residue was dispersed into a mixture of water and chloroform. The chloroform layer was separated and washed with water and dried over magnesium sulfate. The residual oil was triturated with diethyl ether to give 8-(2-methyl-6-thioureidobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine (0.36 g).

reactant | 8-[2-methyl-6-(3-benzoylthioureido)benzylamino]-3-(2propynyl)-2-methylimidazo[1,2-a]pyridine | 0.59 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=S)NC(C1=CC=CC=C1)=O | C27H25N5OS
reactant | potassium carbonate | 0.174 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5.9 ml | CO | CH4O
solvent | tetrahydrofuran | 5.9 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 8-(2-methyl-6-thioureidobenzylamino)-3-(2-propynyl)-2-methylimidazo[1,2-a]pyridine | 0.36 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)NC(=S)N | C20H21N5S
